US07494721B2
Under a nitrogen atmosphere, 4.3 parts of 4-phenylphenol and 1.5 parts of potassium hydroxide were dissolved in 80 parts of toluene and the solution was refluxed under heat. After stirred for 5 hours, the solution was allowed to cool, and the precipitated solid was filtered. Then, under a nitrogen stream, the precipitate, 2 parts of 1,5-dichloroanthraquinone and 0.6 part of copper powder were dissolved in 10 parts of DMF, and the mixture was refluxed under heat for 3 hours. The reaction solution was poured into an aqueous potassiumhydroxide solution, and the precipitated solid was filtered, washed, and dried. Then, after removal of inorganic materials with toluene, the solid obtained was recrystallized from 2-ethoxyethanol, filtered, washed, and dried, to give 0.6 part of 1,5-bis(4-phenylphenoxy)anthraquinone as an intermediate.

reactant | 4-phenylphenol | C1(=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O
reactant | potassium hydroxide | [OH-].[K+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | 1,5-bis(4-phenylphenoxy)anthraquinone | C1(=CC=CC=C1)C1=CC=C(OC2=CC=CC=3C(C4=C(C=CC=C4C(C23)=O)OC2=CC=C(C=C2)C2=CC=CC=C2)=O)C=C1 | C38H24O4
